US07696223B2
a) 4-(4-Cyano-phenyl)-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 4-bromo-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (300 mg, 0.79 mmole), para-cyanophenylboronic acid (233 mg, 1.59 mmole), cesium carbonate (776 mg, 2.38 mmole) and tetrakis(triphenylphosphine)palladium (92 mg, 0.08 mmole) in dioxane (4 ml) was refluxed for 16 h before it was cooled to room temperature, quenched with water and filtered. The filtrate was partitioned between dichloromethane and water. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of dichloromethane and hexanes to give the title compound as a white solid (136 mg). MS: (+) m/z 402.32 (M+H+)

reactant | 4-bromo-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.79 mmole, 300 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)N=C(S2)C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | para-cyanophenylboronic acid | 1.59 mmole, 233 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | cesium carbonate | 2.38 mmole, 776 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.08 mmole, 92 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-Cyano-phenyl)-7-hydroxy-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 136 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)C1=CC=C(C=C1)C#N)N=C(S2)C2=CC=CC=C2)O | C22H15N3O3S
